US04808729
Methyl 4-(mercaptomethyl)-2-methyl-1,3-oxathiolane-2-butanoate
The title compound was prepared according to the procedure of Example 1 using 2,3-dimercaptopropanol (2.8 g, 0.022 mol), methyl 4-acetylbutyrate (3.2 g, 0.022 mol) and boron trifluoride etherate (0.62 ml) in methylene chloride (70 ml). The crude product was chromatographed on silica gel using 10% ethyl acetate/hexane as eluent to give 0.91 g (16.5%) of product.

reactant | 2,3-dimercaptopropanol | 0.022 mol, 2.8 g | SC(CO)CS | C3H8OS2
reactant | methyl 4-acetylbutyrate | 0.022 mol, 3.2 g | C(C)(=O)CCCC(=O)OC | C7H12O3
reactant | boron trifluoride etherate | 0.62 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-(mercaptomethyl)-2-methyl-1,3-oxathiolane-2-butanoate | SCC1SC(OC1)(CCCC(=O)OC)C | C10H18O3S2
